US09422331B2
To a 0° C. solution of (3S,4S)-3-amino-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride (218 mg, 598 μmol) in DMF (1.99 ml) was added Boc-N-methyl-L-alanine (134 mg, 657 μmol), N,N-diisopropylethylamine (414 μl, 2.39 mmol), and HBTU (249 mg, 657 μmol). The reaction was stirred at rt for 30 min, then diluted with EtOAc, washed with H2O, sat. aq. NaHCO3, and sat. aq. NaCl, dried over Na2SO4, filtered, and concentrated. The crude material was purified by flash chromatography to provide tert-butyl(S)-1-((2S,3S)-8-cyano-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (239 mg, 78%) as a white solid. MS m/z 536 (MNa)+.

reactant | (3S,4S)-3-amino-4-methyl-2-oxo-5-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepine-7-carbonitrile hydrochloride | 598 μmol, 218 mg | Cl.N[C@H]1[C@@H](N(C2=C(NC1=O)C=CC(=C2)C#N)C(=O)C2CCOCC2)C
reactant | Boc-N-methyl-L-alanine | 657 μmol, 134 mg | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C | C9H17NO4
reactant | N,N-diisopropylethylamine | 2.39 mmol, 414 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HBTU | 657 μmol, 249 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.99 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl(S)-1-((2S,3S)-8-cyano-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 239 mg, 78% | C(#N)C=1C=CC2=C(N([C@H]([C@@H](C(N2)=O)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)C)C(=O)C2CCOCC2)C1 | C26H35N5O6
